US05734081
2,2'-Dithiobis[N-[[4-(aminosulfonyl)phenyl]methy]benzamide]
A slurry of 4-(aminomethyl)benzenesulfonamide hydrochloride hydrate (6.5 g, 29 mmol) in 100 mL pyridine was allowed to stir with N-methyl-N-(trimethylsilyl)acetamide (13.4 mL, 83.0 mmol) until a homogenous solution occurred. The solution was cooled to 0° C. to 5° C. and a solution of 2,2'-dithiobisbenzoyl chloride (4.0 9, 16.0 mmol) in 20 mL dichloromethane was added dropwise. The resulting solution was allowed to stir for 18 hours and the dichloromethane was removed in vacuo. The crude product was precipitated with the addition of water and the resulting solid was collected by filtration. The crude product was recrystallized from a mixture of dimethylformamide, ethanol, and water to yield 3.3 g of the title compound, mp 267°-269° C.

reactant | 4-(aminomethyl)benzenesulfonamide hydrochloride hydrate | 29 mmol, 6.5 g | O.Cl.NCC1=CC=C(C=C1)S(=O)(=O)N
reactant | N-methyl-N-(trimethylsilyl)acetamide | 83.0 mmol, 13.4 mL | CN(C(C)=O)[Si](C)(C)C | C6H15NOSi
reactant | 2,2'-dithiobisbenzoyl chloride | 16.0 mmol | C(C1=C(C=CC=C1)SSC1=C(C(=O)Cl)C=CC=C1)(=O)Cl | C14H8Cl2O2S2
solvent | pyridine | 100 mL | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 2,2'-Dithiobis[N-[[4-(aminosulfonyl)phenyl]methy]benzamide] | 3.3 g | NS(=O)(=O)C1=CC=C(C=C1)CNC(C1=C(C=CC=C1)SSC1=C(C(=O)NCC2=CC=C(C=C2)S(=O)(=O)N)C=CC=C1)=O | C28H26N4O6S4
